US05464781
2-(4-Aminophenoxy)ethanol was prepared, using the method described in Example C3, by the reduction of 2-(4-nitrophenoxy)ethanol which was prepared by heating a mixture of 4-chloronitrobenzene, ethylene glycol and sodium carbonate in a sealed vessel (Beil. 6, II, 222).

reactant | 2-(4-nitrophenoxy)ethanol | [N+](=O)([O-])C1=CC=C(OCCO)C=C1 | C8H9NO4
reactant | 4-chloronitrobenzene | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 2-(4-Aminophenoxy)ethanol | NC1=CC=C(OCCO)C=C1 | C8H11NO2
